US09126993B2
To a solution of quinuclidin-3-ol (635 mg, 5.00 mmol) in THF (15 mL) was added NaH [60% dispersion in mineral oil] (260 mg, 6.50 mmol) at room temperature. The mixture was stirred for 15 min and 3-bromophenyl isocyanate (990 mg, 5.00 mmol) was added under stirring. The resulting mixture was stirred at room temperature for 18 h, quenched with brine and extracted with EtOAc. The organic layers were combined, dried over Na2SO4 and concentrated. The crude product was purified by silica gel column chromatography (eluting with EtOAc/methanol 3:1) to give quinuclidin-3-yl3-bromophenylcarbamate as a white solid (0.70 g, 43%).

reactant | quinuclidin-3-ol | 5.00 mmol, 635 mg | N12CC(C(CC1)CC2)O | C7H13NO
reactant | NaH | 6.50 mmol, 260 mg | [H-].[Na+]
reactant | 3-bromophenyl isocyanate | 5.00 mmol, 990 mg | BrC=1C=C(C=CC1)N=C=O | C7H4BrNO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | quinuclidin-3-yl3-bromophenylcarbamate | 0.70 g, 43% | N12CC(C(CC1)CC2)OC(NC2=CC(=CC=C2)Br)=O | C14H17BrN2O2
